data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1ccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)cc1C.[H+]", "products": "Cc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)cc1C"}, {"reactants": "Cc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)cc1C", "products": "Cc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)cc1C.O"}, {"reactants": "Cc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)cc1C", "products": "Cc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)cc1C"}, {"reactants": "Cc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)cc1C", "products": "CC1=C(c2ccc(C)c(C)c2)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(C)c(C)c2)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2ccc(C)c(C)c2)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(C)c(C)c2)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)cc1C"}, {"reactants": "Cc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)cc1C", "products": "Cc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)cc1C"}, {"reactants": "Cc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)cc1C", "products": "Cc1ccc(C2CCC3C(=O)OC2(C)C3(C)C)cc1C.[H+]"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)C)c([Si](C)(C)CC)c2Cl", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(Cl)c([Si](C)(C)CC)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(Cl)c([Si](C)(C)CC)c([Si](C)(C)C)cc1=C", "products": "CC[Si](C)(C)c1c([Si](C)(C)C)cc2c(c1Cl)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1cc(F)cc(C(=O)C2C3CCC2C3)c1", "products": "Cc1cc(F)cc([C]([O])C2C3CCC2C3)c1"}, {"reactants": "Cc1cc(F)cc([C]([O])C2C3CCC2C3)c1", "products": "Cc1cc(F)cc(C([O])=CC2C[CH]CC2)c1"}, {"reactants": "Cc1cc(F)cc(C([O])=CC2C[CH]CC2)c1", "products": "Cc1cc(F)cc(C(O)=CC2C=CCC2)c1"}, {"reactants": "Cc1cc(F)cc(C(O)=CC2C=CCC2)c1", "products": "Cc1cc(F)cc(C(=O)CC2C=CCC2)c1"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1cc(C)cc(C2(O)C(=O)CC3CCC2(C)C3(C)C)c1.[H+]", "products": "Cc1cc(C)cc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1"}, {"reactants": "Cc1cc(C)cc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1", "products": "Cc1cc(C)cc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1.O"}, {"reactants": "Cc1cc(C)cc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1", "products": "Cc1cc(C)cc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1"}, {"reactants": "Cc1cc(C)cc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1", "products": "CC1=C(c2cc(C)cc(C)c2)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cc(C)cc(C)c2)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cc(C)cc(C)c2)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cc(C)cc(C)c2)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1cc(C)cc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1"}, {"reactants": "Cc1cc(C)cc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1", "products": "Cc1cc(C)cc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1"}, {"reactants": "Cc1cc(C)cc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1", "products": "Cc1cc(C)cc(C2CCC3C(=O)OC2(C)C3(C)C)c1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1cccc(C(F)O[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "COc1cccc(C(F)O[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1"}, {"reactants": "COc1cccc(C(F)O[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(F)c1cccc(OC)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(F)c1cccc(OC)c1", "products": "COc1cccc(C(F)O[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1"}]}
{"conditions": [], "steps": [{"reactants": "COC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](NO)C1C.C=O", "products": "COC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1C"}, {"reactants": "COC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1C", "products": "COC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1C"}, {"reactants": "COC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1C", "products": "C=[N+](O)[C@@H]1C(C)[C@H](COC)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C(C)[C@H](COC)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C(C)[C@H](COC)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C(C)[C@H](COC)C[C@H]2CC=CC[C@H]21", "products": "COC[C@@H]1C[C@H]2CC3O[N@]4CC3C[C@H]2[C@H]4C1C"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)CC(OC)C(F)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(OC)C(F)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(OC)C(F)N(C(=O)Cc2cn(C)c3ccccc23)C1=O", "products": "CCC12CC(OC)C(F)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O.[Rh]"}, {"reactants": "CCC12CC(OC)C(F)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O", "products": "CCC12CC(OC)C(F)N3C(=O)CC45c6ccccc6N(C)C4C(C(=O)OC)(OC315)C2=O"}]}
